US04640917
(13) 2-[3,5-Dichloro-4-(4-methylthio-phenoxy)-phenyl]hexahydro-1,2,4-triazine-3,5-dione
20 g of 2-[3,5-dichloro-4-(4-methylthio-phenoxy)-phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione were dissolved in 200 ml of hot glacial acetic acid. 25 g of tin(II) chloride·2H2O and then 100 ml of concentrated hydrochloric acid were added, and the mixture was subsequently heated for 4 hours under reflux. After cooling, the product was filtered off with suction, washed with water until neutral and recrystallized from 2-methoxyethanol; melting point 239° C.

reactant | 2-[3,5-dichloro-4-(4-methylthio-phenoxy)-phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione | 20 g | ClC=1C=C(C=C(C1SC1=CC=C(C=C1)C)Cl)N1N=CC(NC1=O)=O | C16H11Cl2N3O2S
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-[3,5-Dichloro-4-(4-methylthio-phenoxy)-phenyl]hexahydro-1,2,4-triazine-3,5-dione | ClC=1C=C(C=C(C1SC1=CC=C(C=C1)C)Cl)N1NCC(NC1=O)=O | C16H13Cl2N3O2S
